US04211783
Preparation of 4-[10-(4-methoxyphenyl)decylamino]benzaldehyde
Di-isobutylaluminum hydride (54 ml., 25% solution in toluene) is added with stirring to a solution of 12.1 g. of 4-[10-(4-methoxyphenyl)decylamino]benzonitrile under a nitrogen atmosphere. After addition is completed, the solution stirred for one hour. A solution of methanol in toluene (50 ml., 1:1) is added over 30 minutes and the mixture is poured into 500 ml. vigorously stirred ice-cold 50% aqueous sulfuric acid. The mixture is filtered and the organic layer separted. The aqueous solution is extracted twice with toluene (100 ml.) and the combined organic layers are washed with aqueous sodium bicarbonate, dried over magnesium sulfate, decolorized with charcoal, filtered and evaporated in vacuo to give a light yellow crystalline solid. The product is recrystallized from dichloromethane/hexanes giving colorless needles.

reactant | Di-isobutylaluminum hydride | 54 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 4-[10-(4-methoxyphenyl)decylamino]benzonitrile | COC1=CC=C(C=C1)CCCCCCCCCCNC1=CC=C(C#N)C=C1 | C24H32N2O
reactant | methanol | CO | CH4O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[10-(4-methoxyphenyl)decylamino]benzaldehyde | COC1=CC=C(C=C1)CCCCCCCCCCNC1=CC=C(C=O)C=C1 | C24H33NO2
